US07943795B2
E. 7-(1-Ethyl-1-hydroxypropyl)naphthalen-2-ol
Treat a mixture of 3-(7-benzyloxynaphthalen-2-yl)pentan-3-ol (1.45 g, 4.53 mmol) and 5% Pd/Al2CO3 (0.044 g) in EtOH (725 mL) with hydrogen at 60 psi for 8 h at RT. Remove the catalyst by filtration and concentrate the filtrate to give the title compound as a yellow oil (0.98 g, 94%). MS (ES) m/e 229 (M−1).

reactant | 3-(7-benzyloxynaphthalen-2-yl)pentan-3-ol | 4.53 mmol, 1.45 g | C(C1=CC=CC=C1)OC1=CC=C2C=CC(=CC2=C1)C(CC)(CC)O | C22H24O2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 725 mL | CCO | C2H6O
product | 7-(1-Ethyl-1-hydroxypropyl)naphthalen-2-ol | 0.98 g, 94% | C(C)C(CC)(O)C1=CC=C2C=CC(=CC2=C1)O | C15H18O2
